US04182897
In 200 ml of ethanol were dissolved 23.0 g of the p-chlorophenyl α-methyl-β-(m-aminophenyl)-propionate hydrochloride thus obtained and 4.2 g of cyanamide, and the resulting solution was subjected to reaction at 70° C. for 5 hours. After the reaction, the solvent was removed by distillation under reduced pressure, to obtain p-chlorophenyl α-methyl-β-(m-guanidinophenyl)-propionate hydrochloride in the form of an oily matter. This compound was dissolved in 50 ml of ethanol, and then added to saturated aqueous NaHCO3 solution, upon which colorless crystals precipitated. The crystals were collected by filtration and washed with water and acetone, to obtain p-chlorophenyl α-methyl-β-(m-guanidinophenyl)-propionate carbonate. Yield: 19.4 g (70%); melting point: 87°-90° C.; IR (cm-1); 3500-2500, 1748, 1660, 1490; MS: M+ =m/e 331 (M.W. - H2CO3).

reactant | p-chlorophenyl α-methyl-β-(m-aminophenyl)-propionate hydrochloride | 23.0 g | Cl.CC(C(=O)OC1=CC=C(C=C1)Cl)CC1=CC(=CC=C1)N
reactant | cyanamide | 4.2 g | N#CN | CH2N2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | p-chlorophenyl α-methyl-β-(m-guanidinophenyl)-propionate hydrochloride | Cl.CC(C(=O)OC1=CC=C(C=C1)Cl)CC1=CC(=CC=C1)NC(=N)N | InChI=1S/C17H18ClN3O2.ClH/c1-11(16(22)23-15-7-5-13(18)6-8-15)9-12-3-2-4-14(10-12)21-17(19)20;/h2-8,10-11H,9H2,1H3,(H4,19,20,21);1H
